Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
lisinopril
 
Attending: ___
 
Chief Complaint:
Feeling lightheaded for ___t home
 
Major Surgical or Invasive Procedure:
-IJ Central Line placed with temp wire, currently capturing
___ Dual chamber permanent pacemaker inserted via left axillary 
___ ___ Pacemaker ACCOLADE MRI ___

 
___ Present Illness:
Mr. ___ is a ___ year old man who presented to his 
cardiologist on ___ with c/o lightheadedness for ___t home.  He was found to be in complete heart 
block with a ventricular rate of 28. He was started on Dopamine 
and he was transferred to ___ for an urgent pacemaker 
evaluation.
 
Past Medical History:
1.  Hypertension.
2.  Hyperlipidemia.
3.  Memory issues.
4.  Mild sleep apnea.
5.  Coronary Artery Disease, Silent inferior MI, seen on echo 
___
6. Cardiomyopathy, EF 40-45%, likely ischemic and hypertensive
heart disease
7.  LBBB

 
Social History:
___
Family History:
Family History:  He has an older brother who had CHF.  There is
no family history of sudden death or early CAD.

 
Physical Exam:
Admission:
PHYSICAL EXAMINATION: 
VITAL SIGNS - Reviewed in metavision
GENERAL - Well appearing in NAD, Oriented x3.
HEENT - EOMI, sclerae anicteric, MMM, OP clear. 
NECK - Supple, no JVD.
LUNGS - CTAB. No wheezes or rales
HEART - Regular, ___ systolic murmur at ___. No rubs or 
gallops.
ABDOMEN - Soft/NT/ND. 
EXTREMITIES - Warm, trace edema. 

Discharge:
PHYSICAL EXAMINATION: 
GENERAL - Well appearing in NAD, Oriented x3. Speech delayed but
coherent and speaking in full sentences. 
HEENT - PERRL. Moist mucus membrane
NECK - Supple, no JVD.
LUNGS - CTAB. No wheezes or rales
HEART - Regular, ___ systolic murmur at LUSB. No rubs or 
gallops.
ABDOMEN - Soft/NT/ND. 
EXTREMITIES - Warm, No edema, palpable pulses in extremities. 
 
Pertinent Results:
Admission:

___ 05:38PM BLOOD Glucose-145* UreaN-24* Creat-0.9 Na-134* 
K-5.6* Cl-99 HCO3-20* AnGap-15
___ 05:38PM BLOOD ALT-14 AST-29 AlkPhos-56 TotBili-0.8
___ 05:38PM BLOOD Albumin-4.5 Calcium-9.5 Phos-2.9 Mg-2.0
___ 05:38PM BLOOD TSH-0.90
___ 05:45PM BLOOD Lactate-1.6
___ 05:38PM BLOOD Neuts-77.4* Lymphs-11.9* Monos-8.3 
Eos-1.7 Baso-0.4 Im ___ AbsNeut-5.87 AbsLymp-0.90* 
AbsMono-0.63 AbsEos-0.13 AbsBaso-0.03
___ 05:38PM BLOOD WBC-7.6 RBC-4.67 Hgb-14.8 Hct-43.3 MCV-93 
MCH-31.7 MCHC-34.2 RDW-13.2 RDWSD-45.0 Plt ___

*****Preliminary: 
EXAMINATION: Video fluoroscopic oropharyngeal swallow study 
  
INDICATION: ___ year old man with CHB now s/p PPM c/b aspiration 
post 
procedure// assessment of oropharyngeal swallow function 
  
TECHNIQUE: Oropharyngeal swallowing videofluoroscopy was 
performed in 
conjunction with the Speech-Language Pathologist from the Voice, 
Speech & 
Swallowing Service. Multiple consistencies of barium were 
administered.  
  
FINDINGS:  
There was evidence of penetration with thin liquids, mostly 
above the level of the vocal cords. There was occasional 
symptomatic penetration of thin liquids to the vocal cords, 
which cleared with cough. No evidence of aspiration.  
Additionally there appeared to be delayed bolus emptying from 
the hypopharynx as well as holdup of solids within the upper and 
lower esophagus. 
  
IMPRESSION:  
Abnormal oropharyngeal swallowing videofluoroscopy. Patient had 
symptomatic penetration with thin liquids. No evidence of 
aspiration. There was delayed 
bolus emptying from the hypopharynx and holdup of solids in the 
upper and 
lower esophagus. 
  
Please note that a detailed description of dynamic swallowing as 
well as a 
summative assessment and recommendations are reported separately 
in a 
standalone note by the Speech-Language Pathologist (OMR, Notes, 
Rehabilitation 
Services). 
  
___ Transthoracic echo:

CONCLUSION:
The left atrial volume index is SEVERELY increased. The right 
atrium is mildly enlarged. There is no evidence for an atrial 
septal defect by 2D/color Doppler. The estimated right atrial 
pressure is >15mmHg. There is mild symmetric left ventricular 
hypertrophy with a normal cavity size. There is mild-moderate 
global left ventricular hypokinesis. Inferolateral wall 
contractility is delayed/dyssynchronous. The visually estimated 
left ventricular ejection fraction is 40-45%. There is no 
resting left ventricular outflow tract gradient. Mildly dilated 
right ventricular cavity with mild global free wall hypokinesis. 
There is abnormal septal motion c/w conduction abnormality/paced 
rhythm. The aortic sinus diameter is normal for gender with 
mildly dilated ascending aorta. The aortic arch is mildly 
dilated. There is no evidence for an aortic arch coarctation. 
The aortic valve leaflets (3) are mildly thickened. There is 
minimal aortic valve stenosis. There is mild [1+] aortic 
regurgitation. The mitral valve leaflets are mildly thickened 
with no mitral valve prolapse. There is moderate mitral annular 
calcification. There is mild [1+] mitral regurgitation. Due to 
acoustic shadowing, the severity of mitral regurgitation could 
be UNDERestimated. The tricuspid valve leaflets appear 
structurally normal. There is mild [1+] tricuspid regurgitation. 
Due to acoustic shadowing, the severity of tricuspid 
regurgitation may be UNDERestimated. There is moderate pulmonary 
artery systolic hypertension. There is a trivial pericardial 
effusion.

IMPRESSION: Mild symmetric left ventricular hypertrophy with 
normal cavity size and mild to moderate global systolic 
dysfunction in the setting of intraventricular dyssynchrony. 
Mild aortic regurgitation. Mild mitral regurgitation. Mild 
tricuspid regurgitation. At least moderate pulmonary artery 
systolic hypertension.
.
CXR ___:
IMPRESSION:  
  
Comparison to ___.  Left pectoral pacemaker in situ.  
1 lead 
projects over the right atrium and 1 over the right ventricle.  
Stable 
bilateral hilar enlargement, no pulmonary edema, no pleural 
effusions.  No 
pneumonia.  Mild cardiomegaly. 
.
Labs at discharge:
___ 07:16AM BLOOD WBC-7.0 RBC-4.02* Hgb-12.4* Hct-37.4* 
MCV-93 MCH-30.8 MCHC-33.2 RDW-13.1 RDWSD-45.0 Plt ___
___ 07:16AM BLOOD Plt ___
___ 07:16AM BLOOD Glucose-102* UreaN-21* Creat-0.7 Na-141 
K-4.7 Cl-104 HCO3-27 AnGap-10
 
Brief Hospital Course:
This is a ___ year old man with HTN, HLD, CM (EF 40-45%), and
known LBBB who presents with lightheadedness. Found to be in
complete heart block for which EP was consulted, CCU transfer 
for
temporary pacing wire placement complicated by agitation and 
intubation. Now s/p PPM

#CORONARIES:  No documented cath ___
#PUMP:  EF 40-45% as of ___
#RHYTHM: Complete heart block with right bundle ventricular
escape rhythm now AV paced
 
ACUTE ISSUES:  
=============  
# Complete Heart Block: The patient has a history of conduction
disease. He has no evidence of a reversible cause for heart 
block
(___ normal).  He had a trans-venous pacemaker placement in the
ICU ___ with a dual chamber permanent pacemaker placed ___

# Ischemic Cardiomyopathy, EF 40-45: Patient appears euvolemic 
on
exam. No need for diuretics
- restarted Carvedilol ___

#Choking: Patient notes that he had several episodes of choking
at home. Speech therapy evaluated pt with a barium swallow and 
rec dietary modifications as noted below. 

RESOLVED:
=================
# Hypoxic Respiratory Failure: Patient on 3L on arrival, no
obvious infiltrate on CXR of edema. Some degree of desaturation
with sleeping. 

# Agitation: Required intubation during PPM and brief restraints
Now pleasant, cooperative and oriented although responses
delayed. High risk for delirium. 

CHRONIC ISSUES:  
===============  
# *HTN: Stable, Restart home carvedilol, amlodipine 

# *BPH: Restart home oxybutynin

# HLD: Continue home simvastatin

TRANSITIONAL ISSUES:
[x] device clinic 1 week in ___ with ___ NP 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Oxybutynin 15 mg PO DAILY 
2. amLODIPine 10 mg PO DAILY 
3. Carvedilol 12.5 mg PO BID 
4. Simvastatin 20 mg PO QPM 
5. Aspirin 325 mg PO DAILY 
6. Vitamin D ___ UNIT PO DAILY 
7. Cyanocobalamin 50 mcg PO DAILY 
8. Ranitidine 75 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  amLODIPine 10 mg PO DAILY  
3.  Carvedilol 12.5 mg PO BID  
4.  Cyanocobalamin 50 mcg PO DAILY  
5.  Oxybutynin 15 mg PO DAILY  
6.  Ranitidine 75 mg PO DAILY  
7.  Simvastatin 20 mg PO QPM  
8.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
AV heart block, complete
syncope
coronary artery disease
delirium
dysphagia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___, 

 It was a pleasure taking care of you at the ___ 
___! 

 WHY WAS I IN THE HOSPITAL? 
 ========================== 
 - You were admitted because you had an abnormally slow heart 
rate. 
 - You were transferred here to have a permanent pacemaker 
placed to maintain a normal heart rate.

 WHAT HAPPENED IN THE HOSPITAL? 
 ============================== 
 - You were admitted to the cardiac intensive care unit to see 
if your heart rate would recover off medication. A temporary 
pacemaker was placed.
 - A dual chamber permanent pacemaker was inserted on ___ 
and the temporary pacemaker was discontinued.
 -A breathing tube was placed during the pacemaker procedure so 
that we could adequately control you pain and provide sedation.
 -After the breathing tube was removed you were noticed to have 
difficulty swallowing food. A video swallowing test was done and 
showed that you are not choking but you need to eat carefully. 

 WHAT SHOULD I DO AFTER DISCHARGE?
 ================================ 
 - Take all of your medications as prescribed (listed below) 
 - Follow up with your doctors as listed below 
 - Seek medical attention if you have new or concerning symptoms 
or you develop swelling in your legs, abdominal distention, or 
shortness of breath at night. 

 It was a pleasure participating in your care. We wish you the 
best! 

 -Your ___ Care Team
 
Followup Instructions:
___